US05656634
2-n-Nonyl-N-(2,4,6-trifluorophenyl)indane-2-carboxamide
The title compound was prepared according to the procedure described in Example 65, except that 398 mg (1.3 mmple) 2-n-nonylindane-2-carbonyl chloride, 220 mg (1.5 mmole) 2,4,6-trifluoroaniline, and 187 mg (1.5 mmole) 4-dimethylaminopyridine in 12 ml methylene chloride were stirred at room temperature for 44 hours. There was obtained 290 mg product. 54% yield. IR(CHCl3): 1693 cm-1. 1H NMR: δ0.86 (t, 3H); 1.23 (c, 12H); 1.41 (c, 2H); 1.78 (c, 2H); 3.02 (d, 2H); 3.5 (d, 2H); 6.7 (c, 3H); 7.18 (c, 4H).

reactant | 2-n-nonylindane-2-carbonyl chloride | 398 mg | C(CCCCCCCC)C1(CC2=CC=CC=C2C1)C(=O)Cl | C19H27ClO
reactant | 2,4,6-trifluoroaniline | 1.5 mmole, 220 mg | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
catalyst | 4-dimethylaminopyridine | 1.5 mmole, 187 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-n-Nonyl-N-(2,4,6-trifluorophenyl)indane-2-carboxamide | 54% yield | C(CCCCCCCC)C1(CC2=CC=CC=C2C1)C(=O)NC1=C(C=C(C=C1F)F)F | C25H30F3NO
